US05489602
A mixture of 2-bromo-3-[2-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]-5-pyridyl]propionic acid methyl ester (1.07 g), thiourea (0.2 g), sodium acetate (0.22 g) and ethanol (25 ml) was heated for 2.5 hours while refluxing. To the reaction mixture was added a saturated aqueous solution of NaHCO3 and ether, and the resulting crystal was collected by filtration, to yield 2-imino-5-[2-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]-5-pyridyl]-4-thiazolidinone (0.86 g, 88%) (recrystallized from chloroform-methanol) as a colorless crystal.

reactant | 2-bromo-3-[2-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]-5-pyridyl]propionic acid methyl ester | 1.07 g | COC(C(CC=1C=CC(=NC1)OCCC=1N=C(OC1C)C1=CC=CC=C1)Br)=O | C21H21BrN2O4
reactant | thiourea | 0.2 g | NC(=S)N | CH4N2S
reactant | sodium acetate | 0.22 g | C(C)(=O)[O-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | ether | CCOCC | C4H10O
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 2-imino-5-[2-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]-5-pyridyl]-4-thiazolidinone | 0.86 g, 88% | N=C1SC(C(N1)=O)C=1C=CC(=NC1)OCCC=1N=C(OC1C)C1=CC=CC=C1 | C20H18N4O3S
